US07074799B2
1. 7-Bromo-2-chloromethyl-3H-quinazolin-4-one
Reflux a solution of 2-amino-4-bromobenzamide (27 g, 0.13 mol; see Joshi and Chaudhari, (1987) Indian J. Chem., Sect. B, 26B(6):602-4) in 2-chloro-1,1,1-trimethoxyethane (50 mL) for 30 minutes, during which time a large precipitate appears. Evaporate the mixture fully and triturate with ether to collect 28 g of 7-bromo-2-chloromethyl-3H-quinazolin-4-one as a white solid.

reactant | 2-amino-4-bromobenzamide | 0.13 mol, 27 g | NC1=C(C(=O)N)C=CC(=C1)Br | C7H7BrN2O
reactant | 2-chloro-1,1,1-trimethoxyethane | 50 mL | ClCC(OC)(OC)OC | C5H11ClO3
product | 7-Bromo-2-chloromethyl-3H-quinazolin-4-one | BrC1=CC=C2C(NC(=NC2=C1)CCl)=O | C9H6BrClN2O
